US08378095B2
To a suspension of 5-(4-(aminomethyl)phenyl)-2-(2,6-difluorophenyl)oxazole-4-carboxamide hydrochloride (0.030 g, 0.08 mmol) in DCM (2 mL) was added triethylamine (25 uL) followed by benzoyl chloride (11 uL) and the resulting mixture stirred at room temperature for 2 hours The solvent was removed in vacuo and the residue purified by preparative HPLC to afford 5-(4-(benzamidomethyl)phenyl)-2-(2,6-difluorophenyl)oxazole-4-carboxamide (0.0128 g, 0.03 mmol, 36%). 1H NMR (DMSO) δ 4.54 (2H, d), 7.40 (2H, t), 7.49 (4H, m), 7.55 (1H, m), 7.74 (3H, m), 7.92 (2H, m), 8.18 (2H, d), 9.15 (1H, t). LCMS (2) Rt: 2.82 min; m/z (ES+) 434.

reactant | 5-(4-(aminomethyl)phenyl)-2-(2,6-difluorophenyl)oxazole-4-carboxamide hydrochloride | 0.08 mmol, 0.030 g | Cl.NCC1=CC=C(C=C1)C1=C(N=C(O1)C1=C(C=CC=C1F)F)C(=O)N
reactant | triethylamine | 25 uL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 11 uL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-(4-(benzamidomethyl)phenyl)-2-(2,6-difluorophenyl)oxazole-4-carboxamide | 0.03 mmol, 0.0128 g, 36% | C(C1=CC=CC=C1)(=O)NCC1=CC=C(C=C1)C1=C(N=C(O1)C1=C(C=CC=C1F)F)C(=O)N | C24H17F2N3O3
